US07122567B2
Trans-2-Amino-1-[(1,1-dimethylethoxy)carbonylamino]indan
Cis-1-[(1,1-dimethylethoxy)carbonylamino]-2-methanesulphonyloxyindan (18.1 g, 55.3 mmol) was dissolved in dry dimethyl acetamide (100 ml). Sodium azide (5.4 g, 83.0 mmol) was added and the mixture heated to 90° C. for 6 hours. The reaction was cooled, diluted with ethyl acetate (150 ml), washed with water (6×200 ml) and dried over magnesium sulphate. 10% Palladium on activated carbon was added and the mixture stirred under a hydrogen atmosphere for 24 hours. Filtration through celite followed by evaporation gave the title compound (2.6 g, 98%) as a white solid.

reactant | Cis-1-[(1,1-dimethylethoxy)carbonylamino]-2-methanesulphonyloxyindan | 55.3 mmol, 18.1 g | CC(C)(OC(=O)N[C@H]1[C@H](CC2=CC=CC=C12)OS(=O)(=O)C)C | C15H21NO5S
reactant | Sodium azide | 83.0 mmol, 5.4 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl acetamide | 100 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | Trans-2-Amino-1-[(1,1-dimethylethoxy)carbonylamino]indan | 2.6 g, 98% | N[C@H]1[C@@H](C2=CC=CC=C2C1)NC(=O)OC(C)(C)C | C14H20N2O2
